US06998486B2
1-[2-(Benzimidazol-2-ylthio)ethyl]piperazine trihydrochloride 1.0 g (2.69 mmol) was suspended in acetonitrile (30 mL), and potassium carbonate 1.45 g (10.49 mmol) was added to the suspension. Water (8 mL) was added dropwise to the mixture under stirring at room temperature until the entirety of the suspension assumed a homogeneous solution. Subsequently, N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-bromoacetamide 810 mg (2.52 mmol) was gradually added to the mixture, and the mixture was stirred for 2.5 hours at room temperature. The reaction mixture was diluted with water (50 mL) and extracted with chloroform (100 mL×3). The organic layer was washed with saturated brine (50 mL), followed by drying over sodium sulfate anhydrate and concentrating under reduced pressure. The residue was purified through silica gel column chromatography (eluent: chloroform:saturated ammonia in methanol=20:1). The thus-obtained oily product was crystallized from ethanol-diethyl ether, thereby yielding 1.16 g of 2-[4-[2-(benzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide (yield: 88%) as a colorless crystalline powder.

reactant | 1-[2-(Benzimidazol-2-ylthio)ethyl]piperazine trihydrochloride | 2.69 mmol, 1.0 g | Cl.Cl.Cl.N1=C(NC2=C1C=CC=C2)SCCN2CCNCC2
reactant | potassium carbonate | 10.49 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]-2-bromoacetamide | 2.52 mmol, 810 mg | CSC1=NC(=CC(=C1NC(CBr)=O)SC)C | C10H13BrN2OS2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
solvent | Water | 8 mL | O | H2O
product | 2-[4-[2-(benzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | 1.16 g, yield: 88% | N1=C(NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC | C23H30N6OS3
